US04822375
A mixture of 5-butoxy-4-hydroxy-2-nitrobenzaldehyde (31 g; 0.13 mole), benzyl chloride (20.2 g; 0.16 mole) and potassium carbonate (22.11 g; 0.16 mole) in 80 ml of dimethylformamide is heated for 2 hours under reflux with stirring. The reaction mixture is poured into 200 ml of ice-cold water and the precipitate filtered off. After recrystallization in a hexane/toluene mixture, 4-benzyloxy-5-butoxy-2-nitrobenzaldehyde (30.2 g; yield: 71%; yellow powder) is obtained; melting point 94° C.

reactant | 5-butoxy-4-hydroxy-2-nitrobenzaldehyde | 0.13 mole, 31 g | C(CCC)OC=1C(=CC(=C(C=O)C1)[N+](=O)[O-])O | C11H13NO5
reactant | benzyl chloride | 0.16 mole, 20.2 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | potassium carbonate | 0.16 mole, 22.11 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 4-benzyloxy-5-butoxy-2-nitrobenzaldehyde | 30.2 g, yield: 71% | C(C1=CC=CC=C1)OC1=CC(=C(C=O)C=C1OCCCC)[N+](=O)[O-] | C18H19NO5
